US04722929
2-(2-Methoxy-4-methylmercapto-phenyl)-5H-imidazo[4,5-d]pyridazin-4-one
Two grams of 2-methoxy-4-methylmercapto-benzoic acid are suspended in 20 ml of polyphosphoric acid, and 1.2 gm of 4,5-diamino-2H-pyridazin-3-one are added thereto with stirring at 50° C. The mixture is heated for 90 minutes to 100°-110° C. and then poured onto ice water, and the product which is precipitated on stirring is subjected to suction filtration. The mother liquor is extracted with ethyl acetate, after which the aqueous phase is made ammoniacal and extracted again with ethyl acetate. The last ethyl acetate phase is evaporated. The residue is combined with the above solid product and purified by chromatography on silica gel [eluant: methylene chloride/ethanol (100:0 to 100:3)].

reactant | 2-methoxy-4-methylmercapto-benzoic acid | Two grams | COC1=C(C(=O)O)C=CC(=C1)SC | C9H10O3S
reactant | 4,5-diamino-2H-pyridazin-3-one | 1.2 gm | NC=1C(NN=CC1N)=O | C4H6N4O
product | 2-(2-Methoxy-4-methylmercapto-phenyl)-5H-imidazo[4,5-d]pyridazin-4-one | COC1=C(C=CC(=C1)SC)C=1N=C2C(=CNNC2=O)N1 | C13H12N4O2S
